US07875610B2
Trans-(4-{2-[4-(5,6-dichloro-2-methylamino-pyrimidin-4-yl)-piperazin-1-yl]-ethyl}-cyclohexyl)-urea (Compound 2)
0.6 g (1.3 mmol) trans-(4-{4-[2-(4-amino-cyclohexyl)-ethyl]-piperazin-1-yl}-5,6-dichloro-pyrimidin-2-yl)-methyl-amine trihydrochlorid was suspended in methanol. Triethylamine (0.36 ml, 2.6 mmol) was added followed by the addition potassium cyanate (0.26 g, 3.12 mmol). The mixture was refluxed for 10 hours. The solvent was removed in vacuo. The residue was triturated with water, and the precipitate was filtered to give the title compound (0.42 g 75%) MS (EI): 431.2 (MH+). 1H NMR (300 MHz, DMSO-d6 (TMS)+1 drop of cc. DCl, □ (ppm)): 0.91-1.12 m (2H); 1.15-1.36 m (3H); 1.56-1.92 m (6H); 2.76 s (3H); 3.00-3.21 m (4H); 3.30-3.61 m (5H); 4.15-4.31 m (2H).

reactant | trans-(4-{4-[2-(4-amino-cyclohexyl)-ethyl]-piperazin-1-yl}-5,6-dichloro-pyrimidin-2-yl)-methyl-amine trihydrochlorid | 1.3 mmol, 0.6 g | Cl.Cl.Cl.N[C@@H]1CC[C@H](CC1)CCN1CCN(CC1)C1=NC(=NC(=C1Cl)Cl)NC
reactant | Triethylamine | 2.6 mmol, 0.36 ml | C(C)N(CC)CC | C6H15N
reactant | potassium cyanate | 3.12 mmol, 0.26 g | [O-]C#N.[K+]
solvent | methanol | CO | CH4O
product | Trans-(4-{2-[4-(5,6-dichloro-2-methylamino-pyrimidin-4-yl)-piperazin-1-yl]-ethyl}-cyclohexyl)-urea | 0.42 g, 75% | ClC=1C(=NC(=NC1Cl)NC)N1CCN(CC1)CC[C@@H]1CC[C@H](CC1)NC(=O)N | C18H29Cl2N7O
